US06670363B1
Step 1: Preparation of 2-Chloro-2-methyl-2′,4′-difluoro Acetophenone
Into the solution of 1,3-Difluorobenzene in 1,2-dicholoroethane (DCE) was added anhydrous aluminium chloride (1.2 mol eqnt.) at 25-30° C. and stirred for 30 minutes. The reaction mixture was then cooled to 0° C. and (±)2-chloropropionyl chloride (1.1 molar equivalent), diluted in DCE, was then added into it over a period of 30-60 min keeping the reaction temperature below 20° C. After the addition was over, reaction mixture was stirred at room temperature for 5-7 hours. For workup, reaction mixture was diluted with DCE and poured into chilled aq. hydrochloric acid solution (5%). The mixture was extracted with DCE and the combined organic layer was washed with 5% aq. sodium bicarbonate solution and water. The solvent was evaporated off under reduced pressure to afford an oil.

reactant | 1,3-Difluorobenzene | FC1=CC(=CC=C1)F | C6H4F2
reactant | aluminium chloride | 1.2 mol | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | (±)2-chloropropionyl chloride | 1.1 molar | ClC(C(=O)Cl)C | C3H4Cl2O
reactant | hydrochloric acid | Cl | ClH
solvent | DCE | ClCCCl | C2H4Cl2
product | 2-Chloro-2-methyl-2′,4′-difluoro Acetophenone | ClC(C(=O)C1=C(C=C(C=C1)F)F)C | C9H7ClF2O
